US05268443
Acetic anhydride (10.5 g, 0.103 mmol) was added to a solution of 3-benzoyl-4-hydroxybenzoic acid (12.5 g, 51.6 mole) and NaOH (4.33 g, 0.108 mmol) in 250 ml of water under nitrogen. The clear colorless solution was stirred at 8° C. for one hour. The product separated initially as a colorless oil which soon crystallized to a white solid. The slurry was made strongly acidic by adding concentrated HCl, and was extracted with ether. The ether extract was washed with water, and dried with MgSO4 and evaporated to dryness providing crude acetoxy acid. The crude product was recrystallized from a mixture of 200 ml of toluene and 150 ml of cyclohexane to give 3-benzoyl-4-acetoxybenzoic acid with a m.p. of 162.5° C. to 163° C.

reactant | Acetic anhydride | 0.103 mmol, 10.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-benzoyl-4-hydroxybenzoic acid | 51.6 mole, 12.5 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1O | C14H10O4
reactant | NaOH | 0.108 mmol, 4.33 g | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | 3-benzoyl-4-acetoxybenzoic acid | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1OC(C)=O | C16H12O5
